US06967197B2
To a solution of 7-(5-bromo-2-thienyl)-4-tert-butoxycarbonylperhydro-1,4-thiazepine (73.8 g) in methanol (500 ml) was added an aqueous solution (500 ml) of OXONE (2KHSO5.KHSO4.K2SO4) (156 g) under ice-cooling. After being stirred for 4 hours, the reaction mixture was concentrated in vacuo to remove methanol. The residue was extracted with ethyl acetate (1000 ml) and the extract was washed successively with a saturated aqueous solution of sodium bicarbonate and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was washed with hexane to afford 7-(5-bromo-2-thienyl)-4-tert-butoxycarbonylperhydro-1,4-thiazepine 1,1-dioxide (64.6 g) as a solid.

reactant | 7-(5-bromo-2-thienyl)-4-tert-butoxycarbonylperhydro-1,4-thiazepine | 73.8 g | BrC1=CC=C(S1)C1CCN(CCS1)C(=O)OC(C)(C)C | C14H20BrNO2S2
reactant | OXONE | 500 ml | OOS(=O)[O-].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | methanol | 500 ml | CO | CH4O
product | 7-(5-bromo-2-thienyl)-4-tert-butoxycarbonylperhydro-1,4-thiazepine 1,1-dioxide | 64.6 g | BrC1=CC=C(S1)C1CCN(CCS1(=O)=O)C(=O)OC(C)(C)C | C14H20BrNO4S2
